US08115005B2
1-{2-[4-(3,5-Dimethyl-pyrazol-1-yl)-phenoxy]-ethyl}-piperidine:
The title compound was prepared from 4-(3,5-dimethyl-pyrazol-1-yl)-phenol (0.1 g, 0.53 mmol), 1-(2-chloroethyl)piperidine hydrochloride (0.2 g, 1.1 mmol) using the general procedure C with a yield of 44% (70 mg); 1H NMR (400 MHz, CDCl3) 7.30 (d, J=8.8 Hz, 2H), 6.95 (d, J=8.8 Hz, 2H), 5.96 (s, 1H), 4.14 (t, J=12, 6 Hz, 2H), 2.78 (t, J=12, 6 Hz, 2H), 2.53 (br, 4H), 2.28 (s, 3H), 2.24 (s, 3H), 1.61-1.47 (m, 6H); LC/MS (ESI): 96%.

reactant | 4-(3,5-dimethyl-pyrazol-1-yl)-phenol | 0.53 mmol, 0.1 g | CC1=NN(C(=C1)C)C1=CC=C(C=C1)O | C11H12N2O
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 1.1 mmol, 0.2 g | Cl.ClCCN1CCCCC1
product | 1-{2-[4-(3,5-Dimethyl-pyrazol-1-yl)-phenoxy]-ethyl}-piperidine | yield of 44% | CC1=NN(C(=C1)C)C1=CC=C(OCCN2CCCCC2)C=C1 | C18H25N3O
